US04602099
A mixture of 4.2 g (0.013 mole) of cis-5-(11-tetradecenyloxy)furan-2-carboxylic acid and 50 ml of anhydrous ether was stirred at room temperature and 20.2 ml (0.0313 mole) of methyllithium (1.55 molar in hexane) added over 15 minutes. The mixture was stirred at room temperature for 3 hours and poured into saturated ammonium chloride solution. About 10 ml of glacial acetic acid was added and the phases separated. The ether layer was washed with water and evaporated to dryness to give a light yellow semisolid residue which was recrystallized twice from methanol to give methyl cis-5-(11-tetradecenyloxy)-2-furyl ketone, M.P. 3638° C.

reactant | cis-5-(11-tetradecenyloxy)furan-2-carboxylic acid | 0.013 mole, 4.2 g | C(CCCCCCCCC\C=C/CC)OC1=CC=C(O1)C(=O)O | C19H30O4
reactant | ether | 50 ml | CCOCC | C4H10O
reactant | methyllithium | 0.0313 mole, 1.55 molar, 20.2 ml | C[Li]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | methyl cis-5-(11-tetradecenyloxy)-2-furyl ketone | C(CCCCCCCCC\C=C/CC)OC1=CC=C(O1)C(=O)C | C20H32O3
